US07592463B2
1-[(1R, 2S)-2-Methoxycyclohex-3-en-1-yl]-propan-1-one (Table 3, Entry 1):
Prepared according to general procedure B from ethyl vinyl ketone (59 μL, 0.59 mmol), 1-methoxy-butadiene (75 μL, 0.74 mmol) added via syringe pump over 12 hours, 70% aqueous perchloric acid (10.2 μL, 0.12 mmol) and (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one (32 mg, 0.12 mmol) in ethanol (590 μL) for 3.5 days at −30° C. Purification by silica gel chromatography (9:1 pentane:ether) provided the title compound as a single diastereomer (as judged by GLC analysis) in 88% yield (88 mg, 0.52 mmol) and 92% ee. IR (film) 3027, 2975, 2937, 2879, 2821, 1715, 1452, 1432, 1375, 1211, 1191, 1129, 1108, 1084, 917.8, 889.2 cm−1; 1H NMR (300 MHz, CDCl3) δ 5.95 (m, 2H, CH═CH), 4.06 (m, 1H, CHOCH3), 3.30 (s, 1H, OCH3), 2.53 (m, 3H, CH2CO and CHCO), 2.20 (m, 1H, one of CH2CH═CH), 1.85 (m, 3H, CH2CHCOEt and one of C(H)HCH═CH), 1.05 (dd, J=7.2, 7.2 Hz, 3H, CH2CH3); 13C NMR (75 MHz, CDCl3) δ 211.5, 133.2, 124.5, 73.0, 56.7, 51.8, 33.8, 25.6, 18.7, 8.1; HRMS (CI) exact mass calc'd for [M—CH3OH]+(C9H12O) requires m/z 136.0888, found m/z 136.0889. [α]D=+16.7 (c=1.0, CHCl3). Product ratios were determined by GLC analysis (100° C., 23 psi); (1R, 2S) endo isomer tr=29.6 min, and (1S, 2R) endo isomer tr=32.6 min, exo isomers tr=19.1, 19.4 min.

reactant | ethyl vinyl ketone | 0.59 mmol, 59 μL | C(=C)C(=O)CC | C5H8O
reactant | 1-methoxy-butadiene | 0.74 mmol, 75 μL | COC=CC=C | C5H8O
reactant | perchloric acid | 0.12 mmol, 10.2 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | (2S, 5S)-5-benzyl-3-methyl-2-(5-methyl-furan-2-yl)-imidazolidin-4-one | 0.12 mmol, 32 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C=1OC(=CC1)C)C)=O | C16H18N2O2
solvent | ethanol | 590 μL | C(C)O | C2H6O
product | 1-[(1R, 2S)-2-Methoxycyclohex-3-en-1-yl]-propan-1-one | 88% yield | CO[C@@H]1[C@@H](CCC=C1)C(CC)=O | C10H16O2
